US06426346B1
Part A. Preparation of 2-bromonicotinic acid
Potassium permanganate (18.4 g, 116 mmol) was dissolved in water (400 mL) and added to 2-bromo-3-methylpyridine (10.0 g, 58 mmol) and refluxed for 16 hours. After cooling to room temperature, the slurry was filtered through a celite plug and rinsed with water and chloroform. The entire filtrate was transferred to a separatory funnel and the layers were separated. The aqueous layer was extracted again with CHCl3 and acidified with 6N HCl to pH 1. A white solid was obtained on standing (2.08 g of product). The pH of the remaining aqueous was adjusted to pH 4 with 2M NaOH and 2M HCl, then concentrated to <100 mL. A white precipitate was filtered. The pH was adjusted to 4 and the mixture filtered again, combining the isolated solids for a total of 3.88 g of product. The filtrate was concentrated again to <100 mL and adjusted to pH 1.5 and an additional quanitity of white solid was obtained (1.80 g), for a combined yield of 3 crops, (8.76 g, 66%). 1H NMR (DMSO-d6): δ13.76 (bs, 1H), 8.46 (m, 1H), 8.09 (dd, 1H, J=7.7, J′=2.2), 7.51 (m, 1H).

reactant | Potassium permanganate | 116 mmol, 18.4 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-bromo-3-methylpyridine | 58 mmol, 10.0 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | NaOH | 2M | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 400 mL | O | H2O
product | 2-bromonicotinic acid | BrC1=C(C(=O)O)C=CC=N1 | C6H4BrNO2
